US09399623B2
6-Chloro-2-(3-(S)-dimethylamino-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (3,3-difluoro-1-hydroxy-cyclohexylmethyl)-amide (125)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (3,3-difluoro-1-hydroxy-cyclohexylmethyl)-amide, DIPEA and (S)-3-dimethylamino-pyrrolidine. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.73 (m, 1H), 7.85 (1H), 7.48 (m, 2H), 6.69 (1H), 4.66 (s, 1H), 3.89 (m, 1H), 3.70 (m, 1H), 3.45 (m, 1H), 3.26 (m, 2H), 2.85 (m, 1H), 2.54 (m, 4H), 2.22 (s, 6H), 2.15 (m, 1H), 2.06 (m, 2H), 1.85 (m, 3H), 1.74-1.76 (m, 5H). m/z: 467 [M+H]

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (3,3-difluoro-1-hydroxy-cyclohexylmethyl)-amide | FC1(CC(CCC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-3-dimethylamino-pyrrolidine | CN([C@@H]1CNCC1)C | C6H14N2
product | 6-Chloro-2-(3-(S)-dimethylamino-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (3,3-difluoro-1-hydroxy-cyclohexylmethyl)-amide | FC1(CC(CCC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1C[C@H](CC1)N(C)C)F | C23H29ClF2N4O2
